US08536165B2
A. 3-(3-Methyl-5-nitropyridin-2-yl)benzamide
Obtained (0.225 g, yield 95%) following the procedure described in Intermediate 27, starting with 2-bromo-3-methyl-5-nitropyridine (0.92 mmol, 0.200 g), 3-carbamoylphenyl boronic acid (0.92 mmol, 0.152 g).

reactant | 2-bromo-3-methyl-5-nitropyridine | 0.92 mmol, 0.200 g | BrC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5BrN2O2
reactant | 3-carbamoylphenyl boronic acid | 0.92 mmol, 0.152 g | C(N)(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
product | 3-(3-Methyl-5-nitropyridin-2-yl)benzamide | yield 95% | CC=1C(=NC=C(C1)[N+](=O)[O-])C=1C=C(C(=O)N)C=CC1 | C13H11N3O3
